US06184225B2
2.5M Aqueous sodium hydroxide solution (300 ml) was added over 5 minutes to a solution of ethyl 2-chloro-2-(2,6-difluoro-4-nitrophenyl)ethanoate (34.86 g 125 mmol) in ethanol (300 ml) at 5° C. such that the reaction temperature was kept below 25° C. The mixture was cooled to 18° C. and 30% hydrogen peroxide (40 ml) was added. The mixture was stirred at 20° C. for 2.5 hours. Sodium sulphite was added until the peroxide test was negative, the mixture was acidified to pH1 with 6M hydrochloric acid and extracted with ethyl acetate. The organic extracts were back extracted with saturated aqueous sodium hydrogen carbonate solution, the aqueous extracts were acidified with concentrated hydrochloric acid and extracted with ethyl acetate. The extracts were dried (MgSO4) and the solvent removed by evaporation to give 2,6-difluoro-4-nitrobenzoic acid (4.89 g, 19%).

reactant | sodium hydroxide | 2.5M, 300 ml | [OH-].[Na+]
reactant | ethyl 2-chloro-2-(2,6-difluoro-4-nitrophenyl)ethanoate | 125 mmol, 34.86 g | ClC(C(=O)OCC)C1=C(C=C(C=C1F)[N+](=O)[O-])F | C10H8ClF2NO4
reactant | hydrogen peroxide | 40 ml | OO | H2O2
reactant | Sodium sulphite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | 6M | Cl | ClH
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2,6-difluoro-4-nitrobenzoic acid | 4.89 g, 19% | FC1=C(C(=O)O)C(=CC(=C1)[N+](=O)[O-])F | C7H3F2NO4
